US07582631B2
(S)-{4-[4-(5-Ethyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-quinolin-2-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine
A mixture of 60 mg (0.14 mmol) {4-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-quinolin-2-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine in 5 mL chloroform was treated with 0.1 mL (1.8 mmol) acetaldehyde, 113 mg (1.8 mmol) NaBH3(CN) and 1 mL methanol. The mixture was stirred at rt for 15 h. MS showed all starting materials were converted. The mixture was diluted with 100 mL DCM, washed with 20 mL sat. NaHCO3, and dried over anhydrous Na2SO4. After purification by chromatography, the title compound was obtained as a yellow solid. MS (ES+): 450 (M+H)+.

reactant | {4-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-quinolin-2-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | 0.14 mmol, 60 mg | C12N(CC(NC1)C2)C2=CC(=NC1=CC=CC=C21)C2=CC(=NC=C2)NC(C)C2=CC=CC=C2 | C27H27N5
reactant | acetaldehyde | 1.8 mmol, 0.1 mL | C(C)=O | C2H4O
reactant | methanol | 1 mL | CO | CH4O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-{4-[4-(5-Ethyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-quinolin-2-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | C(C)N1[C@@H]2CN([C@H](C1)C2)C2=CC(=NC1=CC=CC=C21)C2=CC(=NC=C2)N[C@@H](C)C2=CC=CC=C2 | C29H31N5
